US07514473B2
(b) 4-bromo-2,3-dichloro-oxiranylmethoxy benzene
A solution of the crude 4-bromo-2,3-dichlorophenol (7.96 g) and (2R)-glycidyl 3-nitrobenzenesulfonate (8.52 g) in dry acetone (250 mL) was treated with potassium carbonate (13.61 g) and refluxed under nitrogen for 12 h. The reaction was cooled, filtered and filtrate was concentrated in vacuo and the residue was flash chromatographed (20% ethyl acetate/hexanes) to yield the desired product (6.94 g) in 71% yield. 1H-NMR (400 MHz, CDCl3) δ: 7.48 and 6.82 (d, 2H), 4.37 and 4.34 (dd, 1H), 4.06 and 4.03 (dd, 1H), 3.42-3.39 (m, 1H), 2.96-2.94 (m, 1H), 2.85-2.83 (m, 1H).

reactant | 4-bromo-2,3-dichlorophenol | 7.96 g | BrC1=C(C(=C(C=C1)O)Cl)Cl | C6H3BrCl2O
reactant | potassium carbonate | 13.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-bromo-2,3-dichloro-oxiranylmethoxy benzene | 6.94 g, 71% yield | BrC1=C(C(=C(C=C1)OCC1OC1)Cl)Cl | C9H7BrCl2O2
